US07323455B2
N-[4-bromo-2-(1-hydroxyethyl)phenyl]-2-chloroacetamide
Prepared by from 1-(2-amino-5-bromo-phenyl)-ethanol and chloroacetyl chloride generally according to the procedure described in Example 1. 1H-NMR (DMSO-d6) δ 10.11 (s, 1H), 7.64 (d, J=8.63 Hz, 1H), 7.57 (d, J=2.31 Hz, 1H), 7.44 (dd, J=2.34, 8.57 Hz, 1H), 5.77 (d, J=3.88 Hz, 1H), 4.93-4.89 (m, 1H), 4.35, (s, 2H), 1.31 (d, J=6.45 Hz, 3H); MS (ES) m/z 290/292/294 ([M−H]−, 100%).

reactant | 1-(2-amino-5-bromo-phenyl)-ethanol | NC1=C(C=C(C=C1)Br)C(C)O | C8H10BrNO
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | N-[4-bromo-2-(1-hydroxyethyl)phenyl]-2-chloroacetamide | BrC1=CC(=C(C=C1)NC(CCl)=O)C(C)O | C10H11BrClNO2
